US09447046B2
Preparation 59a: 6-propoxy-1,2,3,4-tetrahydronaphthalen-1-one
6-Hydroxy-1-tetralone (2.0 g, 12.3 mmol), bromo-propane (2.24 mL, 24.7 mmol), potassium iodide (2.05 g, 12.3 mmol) and potassium carbonate (3.41 g, 24.7 mmol) were combined in ACN (50 mL) in a sealed vessel, and the reaction was stirred at 122° C. overnight. The reaction was cooled, filtered, and concentrated. Purification by silica gel chromatography (10-50% EtOAc/hexanes) gave 2.36 g (94%) of the title compound as a clear oil. 1H NMR (400 MHz, DMSO-d6): δ 1.04 (3H, t, J=7.4 Hz), 1.79-1.85 (2H, m), 2.09-2.14 (2H, m), 2.60 (2H, t, J=6.3 Hz), 2.88-2.93 (2H, t, J=6.5 Hz), 3.97 (2H, t, J=6.5 Hz), 6.69 (1H, d, J=2.3 Hz), 6.81 (1H, dd, J=8.8, 4.1 Hz), 7.99 (1H, d, J=8.7 Hz). [M+H] calc'd for C13H16O2, 205. found 205.

reactant | 6-Hydroxy-1-tetralone | 12.3 mmol, 2.0 g | OC=1C=C2CCCC(C2=CC1)=O | C10H10O2
reactant | bromo-propane | 24.7 mmol, 2.24 mL | BrCCC | C3H7Br
reactant | potassium iodide | 12.3 mmol, 2.05 g | [I-].[K+]
reactant | potassium carbonate | 24.7 mmol, 3.41 g | C([O-])([O-])=O.[K+].[K+]
solvent | ACN | 50 mL | C(C)#N | C2H3N
product | 6-propoxy-1,2,3,4-tetrahydronaphthalen-1-one | 2.36 g, 94% | C(CC)OC=1C=C2CCCC(C2=CC1)=O | C13H16O2
